US04369185
2-Ethylsulfinyl-5-butylsulfonyl-1,3,4-thiadiazole
A solution of 53.29 g of 2-Ethylthio-5-butylsulfonyl-1,3,4-thiadiazole in 500 ml acetic acid is mixed with 23 g of 30 percent hydrogen peroxide. The reaction takes place over night upon standing at room temperature. Then one liter water is added to the reaction solution, the separated oil is extracted with dichloromethane, the extract is freed from acetic acid by extraction with soda ash solution, the dichloromethane phase is dried with magnesium sulfate and the solvent is distilled off completely, finally in vacuo. The remaining residue is recrystallized from isopropylether/isopropanol.

reactant | 2-Ethylthio-5-butylsulfonyl-1,3,4-thiadiazole | 53.29 g | C(C)SC=1SC(=NN1)S(=O)(=O)CCCC | C8H14N2O2S3
reactant | hydrogen peroxide | 23 g | OO | H2O2
reactant | water | one liter | O | H2O
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 2-Ethylsulfinyl-5-butylsulfonyl-1,3,4-thiadiazole | C(C)S(=O)C=1SC(=NN1)S(=O)(=O)CCCC | C8H14N2O3S3
